US08049015B2
[5-(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester and 2-pyridylacetic acid hydrochloride were reacted as described in Example 8, Step 6 to provide [5-(2-{[N-ethyl-N-(2-pyridin-2-yl-acetyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester. The ester was hydrolyzed to the acid as described in Example 30, Step 2.

reactant | [5-(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C19H21F3N2O2
reactant | 2-pyridylacetic acid hydrochloride | Cl.N1=C(C=CC=C1)CC(=O)O
product | [5-(2-{[N-ethyl-N-(2-pyridin-2-yl-acetyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(CC1=NC=CC=C1)=O)CC)=O | C26H26F3N3O3
